US04851418
[R]-2-[1-(Phenylmethyl)-3-pyrrolidinyl]-1H-isoindole-1,3(2H)-dione
To a suspension of 8.9 g (50 mmol) of (S)-1-phenylmethyl-3-hydroxypyrrolidine [Synth. Commun., 15, 587 (1985)], 9.8 g (50 mmol) of phthalimide, 13.1 g (50 mmol) of triphenylphosphine and 100 ml of tetrahydrofuran was added, dropwise, a solution of 8.8 g (50 mmol) of diethyl azodicarboxylate at room temperature. The reaction was stirred for 18 hours and the solvent was removed in vacuo. The residue was triturated with ether and the solid was removed by filtration and chromatographed on silica gel (E. Merck-240-400 mesh) eluting with chloroform/ethyl acetate (80:20). Fractions were combined based on thin layer chromatography and evaporated in vacuo to give 12.1 g of the title compound.

reactant | (S)-1-phenylmethyl-3-hydroxypyrrolidine | 50 mmol, 8.9 g | C1(=CC=CC=C1)CN1C[C@H](CC1)O | C11H15NO
reactant | phthalimide | 50 mmol, 9.8 g | C1(C=2C(C(N1)=O)=CC=CC2)=O | C8H5NO2
reactant | triphenylphosphine | 50 mmol, 13.1 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diethyl azodicarboxylate | 50 mmol, 8.8 g | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
product | [R]-2-[1-(Phenylmethyl)-3-pyrrolidinyl]-1H-isoindole-1,3(2H)-dione | 12.1 g | C1(=CC=CC=C1)CN1C[C@@H](CC1)N1C(C2=CC=CC=C2C1=O)=O | C19H18N2O2
